US08912200B2
Step 2: 1-[1-(4-Ethynylphenyl)piperidin-4-yl]-4-methylpiperazine
A solution of 1-methyl-4-(1-{4-[(trimethylsilyl)ethynyl]phenyl}piperidin-4-yl)piperazine (2.55 g, 7.179 mmol) in anhydrous methanol (25 mL) was treated with powdered anhydrous potassium carbonate (99.2 mg, 0.718 mmol) under stirring at room temperature for 3 h. After removing the solvent under vacuum the residue was taken up with DCM (50 mL) and water (5 mL). The phases were separated, the organic phase was washed with a saturated solution of sodium hydrogencarbonate (3×10 mL), brine (3×10 mL), water (10 mL), dried over sodium sulfate and the solvent removed under vacuum. The yellowish solid obtained was purified by chromatography on silica gel (DCM/MeOH/TEA 90/10/0.2) to give the title compound as yellow solid (1.534 g, 76%).

reactant | 1-methyl-4-(1-{4-[(trimethylsilyl)ethynyl]phenyl}piperidin-4-yl)piperazine | 7.179 mmol, 2.55 g | CN1CCN(CC1)C1CCN(CC1)C1=CC=C(C=C1)C#C[Si](C)(C)C | C21H33N3Si
reactant | potassium carbonate | 0.718 mmol, 99.2 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 25 mL | CO | CH4O
product | 1-[1-(4-Ethynylphenyl)piperidin-4-yl]-4-methylpiperazine | 1.534 g, 76% | C(#C)C1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C18H25N3
